US05180735
Fumagillol (3.00 g) was dissolved in DMF (6 ml), to which was added thiomethoxide (2.23 g). The mixture was stirred for 30 minutes, to which was added water to suspend the reaction. The product was extracted with isopropylether. The extract solution was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous saline solution, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, then the residue was purified by means of a silica gel column chromatography (carrier 150 g, developing solvent : ethyl acetate - hexane=1:2), followed by recrystallization from hexane to afford 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-methylthiomethyl-1,4-cyclohexanediol (2.43 g:yield 69%) as colorless powder, m.p. 52° to 53° C.

reactant | Fumagillol | 3.00 g | CC(=CC[C@@H]1[C@@](O1)(C)[C@H]2[C@@H]([C@@H](CC[C@]23CO3)O)OC)C | C16H26O4
reactant | thiomethoxide | 2.23 g | C[S-]
reactant | water | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-methylthiomethyl-1,4-cyclohexanediol | 2.43 g, yield 69% | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)O)(O)CSC | C17H30O4S
